US05856529
Step 2: Ethyl 2-(3-hydroxypropyl)-3-benzyloxybenzoate
A solution of ethyl 2-allyl-3-benzyloxybenzoate (29.6 g, 100 mmol) in THF (300 ml) was cooled to -10° C. under nitrogen. A solution of borane THF complex (110 ml of 1M, 110 mmol) was added dropwise, and the reaction mixture was allowed to warm to room temperature and stirred for 1 hr. A solution of hydrogen peroxide (12 ml) in saturated NaHCO3 (200 ml) was then slowly added, and the mixture was stirred for 30 min. The mixture was extracted with ethyl acetate twice. The ethyl acetate extracts were washed with water, dried over brine, and then concentrated in vacuo to give a clear oil (27.6 g, 88%).

reactant | ethyl 2-allyl-3-benzyloxybenzoate | 100 mmol, 29.6 g | C(C=C)C1=C(C(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C19H20O3
reactant | hydrogen peroxide | 12 ml | OO | H2O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
product | Ethyl 2-(3-hydroxypropyl)-3-benzyloxybenzoate | 27.6 g, 88% | OCCCC1=C(C(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C19H22O4
